US05455252
2-bromo-4-(methylsulfonylmethyl)aniline and glycerol can be combined to form 6-(methylsulfonylmethyl)-8-bromoquinoline.

reactant | 2-bromo-4-(methylsulfonylmethyl)aniline | BrC1=C(N)C=CC(=C1)CS(=O)(=O)C | C8H10BrNO2S
reactant | glycerol | OCC(O)CO | C3H8O3
product | 6-(methylsulfonylmethyl)-8-bromoquinoline | CS(=O)(=O)CC=1C=C2C=CC=NC2=C(C1)Br | C11H10BrNO2S
